US08629158B2
a) 3-(2-Methoxypyridin-4-yl)-6-(trifluoromethyl)pyridazine (CAS Registry Number 1173155-65-1) (WO 2009/089482 to Guzzo et al., which is hereby incorporated by reference in its entirety)
3-Chloro-6-(trifluoromethyl)pyridazine (137 mg, 0.751 mmol), 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (176 mg, 0.749 mmol), K2CO3 (310 mg, 2.25 mmol) and PdCl2(dppf) (61 mg, 0.075 mmol) were stirred in DMSO (4 mL). The reaction mixture was degassed, then back-filled with N2. The reaction mixture was stirred at 80° C. in a pre-heated oil bath for 2 hours. After cooling, the reaction was quenched with water and extracted with CH2Cl2. The organic layer was washed with H2O and 5% LiCl solution, dried with Na2SO4, filtered and concentrated. Flash chromatography (silica gel, hexanes/EtOAc), 100:0 to 50:50) afforded the title compound (115 mg, 60%) as a white solid: 1H NMR (500 MHz, CDCl3) δ 8.39 (d, J=5.8 Hz, 1H), 8.05 (d, J=8.8 Hz, 1H), 7.94 (d, J=8.8 Hz, 1H), 7.62 (dd, J=5.4, 1.5 Hz, 1H), 7.45 (s, 1H), 4.03 (s, 3H).

reactant | 3-Chloro-6-(trifluoromethyl)pyridazine | 0.751 mmol, 137 mg | ClC=1N=NC(=CC1)C(F)(F)F | C5H2ClF3N2
reactant | 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.749 mmol, 176 mg | COC1=NC=CC(=C1)B1OC(C(O1)(C)C)(C)C | C12H18BNO3
reactant | K2CO3 | 2.25 mmol, 310 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
catalyst | PdCl2(dppf) | 0.075 mmol, 61 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(2-Methoxypyridin-4-yl)-6-(trifluoromethyl)pyridazine | 115 mg, 60% | COC1=NC=CC(=C1)C=1N=NC(=CC1)C(F)(F)F | C11H8F3N3O
